US04931436
5,11-Dihydro-11-[[3-[3-(1-pyrrolidinyl)propyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride
Prepared analogously to Example 1 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 3-[3-(1-pyrrolidinyl)propyl]piperidine in a yield of 56% of theory. Colourless crystals, m.p. >260° C. (from water/acetone), water solubility: about 0.3%.

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 3-[3-(1-pyrrolidinyl)propyl]piperidine | N1(CCCC1)CCCC1CNCCC1 | C12H24N2
reactant | water acetone | O.CC(=O)C
solvent | water | O | H2O
product | 5,11-Dihydro-11-[[3-[3-(1-pyrrolidinyl)propyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride | yield of 56% | Cl.N1(CCCC1)CCCC1CN(CCC1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | InChI=1S/C25H31N5O2.ClH/c31-24-20-10-1-2-12-22(20)30(23-21(27-24)11-5-13-26-23)25(32)29-17-7-9-19(18-29)8-6-16-28-14-3-4-15-28;/h1-2,5,10-13,19H,3-4,6-9,14-18H2,(H,27,31);1H
